US07531532B2
2-Amino-4-{3-methoxy-4-[3-(2-phenylacetyl)thioureido]phenoxy}pyridine
2-Phenylacetyl chloride (0.198 ml) was dissolved in acetonitrile (10 ml) under a nitrogen atmosphere, and then potassium thiocyanate (292 mg) was added at 60° C., followed by stirring at the same temperature for 3.5 hrs. The reaction mixture was cooled down to room temperature, and then 2-amino-4-(4-amino-3-methoxyphenoxy)pyridine (231.3 mg) was added thereto, followed by further stirring for 2 hrs. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (eluent; ethyl acetate, then ethyl acetate:methanol=9:1) to provide the titled compound (158 mg, 39%) as pale brown powder.

reactant | 2-Phenylacetyl chloride | 0.198 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | potassium thiocyanate | 292 mg | [S-]C#N.[K+]
reactant | 2-amino-4-(4-amino-3-methoxyphenoxy)pyridine | 231.3 mg | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)N)OC | C12H13N3O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-Amino-4-{3-methoxy-4-[3-(2-phenylacetyl)thioureido]phenoxy}pyridine | 158 mg, 39% | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=S)NC(CC1=CC=CC=C1)=O)OC | C21H20N4O3S
